US04634710
47.8 g of (4-methoxy-5-methyl-2-pyridyl)methyl acetate were dissolved in 330 ml of ethanol. 165 ml of 3N sodium hydroxide solution were then added dropwise thereto at 0° and the mixture was stirred at room temperature for a further 3 hours. The ethanol was subsequently removed in vacuo, whereupon the residual aqueous solution was extracted three times with 250 ml of methylene chloride. The organic extracts were dried over sodium sulfate and evaporated in vacuo. The residue crystallizes from petroleum ether and there was obtained 4-methoxy-5-methyl-2-pyridylmethanol of melting point 101°-103°.

reactant | (4-methoxy-5-methyl-2-pyridyl)methyl acetate | 47.8 g | C(C)(=O)OCC1=NC=C(C(=C1)OC)C | C10H13NO3
reactant | sodium hydroxide | 3N, 165 ml | [OH-].[Na+]
solvent | ethanol | 330 ml | C(C)O | C2H6O
product | 4-methoxy-5-methyl-2-pyridylmethanol | COC1=CC(=NC=C1C)CO | C8H11NO2
